### PR TITLE
feat: gnark 14

### PR DESCRIPTION
**Pull request by sergeytimoshin**
- gnark updated to 0.14
  - gnar -crypto updated to 0.19
  - updated formal verification from GatesGnark8 to GatesGnark12
  - regenerated all proving and verifying keys for v0.14.0 compatibility
  - prover code restructured, legacy circuits => v1, merkle circuits with PublicInputHash + batch circuits => v2
  - fixed key generation and download scripts for new key format

### CODE REVIEW

File: prover/server/formal-verification/Main.lean [hunk 1]
```diff
@@ -245,7 +245,7 @@ theorem inputHash_injective:
   intro ⟨hp₁, hp₂⟩
   have h₁ := BatchAddressLoop_skip_tree (BatchAddressLoop_rw1.mp hp₁)
   have h₂ := BatchAddressLoop_skip_tree (BatchAddressLoop_rw1.mp hp₂)
-  simp [HashChain_B_rw, LightProver.Gates, GatesGnark8, HashChain_4_rw, hashChain_injective] at h₁ h₂
+  simp [HashChain_B_rw, LightProver.Gates, GatesGnark8, GatesGnark12, GatesGnark9, HashChain_4_rw, hashChain_injective] at h₁ h₂
```
Comment (ananas-block) [inline prover/server/formal-verification/Main.lean:248]: what does the `GatesGnark12` `GatesGnark9` refer to?

**Comment by ananas-block** [comment]
do we have v1 unit tests?

**Comment by sergeytimoshin** [comment]
https://github.com/Lightprotocol/light-protocol/pull/1942
